US08227478B2
To a mixture of 4-[4-(4-iodobenzotriazol-1-yl)-pyrimidin-2-ylamino]-cyclohexane-carboxylic acid ethyl ester (2.56 g) in THF (20 mL), EtOH (20 mL) and H2O (15 mL) was added LiOH.H2O (0.65 g), and the resulting mixture stirred at RT overnight. The reaction mixture was then acidified with citric acid (2.99 g) in H2O (10 mL), and the solvent removed in vacuo. The resulting light orange solid was stirred in H2O for 30 min, filtered, washed with H2O, and dried to obtain 4-[4-(4-iodobenzotriazol-1-yl)-pyrimidin-2-ylamino]-cyclohexanecarboxylic acid (2.1 g, 87%) as a light orange powder. Mp=252-254° C.

reactant | 4-[4-(4-iodobenzotriazol-1-yl)-pyrimidin-2-ylamino]-cyclohexane-carboxylic acid ethyl ester | 2.56 g | C(C)OC(=O)C1CCC(CC1)NC1=NC=CC(=N1)N1N=NC2=C1C=CC=C2I | C19H21IN6O2
reactant | LiOH.H2O | 0.65 g | O[Li].O
reactant | citric acid | 2.99 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | H2O | 15 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | 4-[4-(4-iodobenzotriazol-1-yl)-pyrimidin-2-ylamino]-cyclohexanecarboxylic acid | 2.1 g, 87% | IC1=CC=CC=2N(N=NC21)C2=NC(=NC=C2)NC2CCC(CC2)C(=O)O | C17H17IN6O2
